US04352795
A mixture of 8.0 g of 2-amino-4-allyloxy-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine, 1.5 g of 20% palladium on charcoal, 6.7 ml of acetic acid, and 150 ml of methoxy ethanol is hydrogenated at 50° C. and approximately 3 atmospheres until the uptake of hydrogen ceases. The mixture is filtered, evaporated in vacuo, dissolved in water, and treated with 60 ml of wet IR-45 ion exchange resin. The filtrate is concentrated to dryness in vacuo and the residue is recrystallized from water to provide pure 2-amino-7-β-D-arabinofuranosyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one.

reactant | 2-amino-4-allyloxy-7-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)-7H-pyrrolo[2,3-d]pyrimidine | 8.0 g | NC=1N=C(C2=C(N1)N(C=C2)[C@H]2[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O2)COCC2=CC=CC=C2)OCC=C | C35H36N4O5
reactant | methoxy ethanol | 150 ml | COC(C)O | C3H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 1.5 g | [Pd] | Pd
solvent | acetic acid | 6.7 ml | C(C)(=O)O | C2H4O2
product | 2-amino-7-β-D-arabinofuranosyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidin-4-one | NC=1NC(C2=C(N1)N(C=C2)[C@H]2[C@@H](O)[C@H](O)[C@H](O2)CO)=O | C11H14N4O5
